US05928562
Preparation of 5-Octyloxy-2-[4-(2-(2-(2-(pentafluoroethoxy)tetrafluoroethoxy)-2,2-difluoroethoxy)ethoxy)phenyl]pyrimidine
The title compound was prepared essentially as in Example 1 by combining 2-(2-(2-(pentafluoroethoxy)tetrafluoroethoxy)-2,2-difluoroethoxy)ethyl methane sulfonate (4.54 g, 10 mmol, prepared from 2-(2-(2-(pentafluoroethoxy)tetrafluoroethoxy)-2,2-difluoroethoxy)ethanol and methanesulfonyl chloride) with 5-octyloxy-2-(4-hydroxyphenyl)pyrimidine (3.0 g, 10 mmol). The resulting crude product was purified by recrystallization from ethanol followed by Kugelrohr distillation (230° C. at 0.3 torr) to provide a yield of 6.5 g.

reactant | 2-(2-(2-(pentafluoroethoxy)tetrafluoroethoxy)-2,2-difluoroethoxy)ethyl methane sulfonate | 10 mmol, 4.54 g | CS(=O)(=O)OCCOCC(F)(F)OC(C(OC(C(F)(F)F)(F)F)(F)F)(F)F | C9H9F11O6S
reactant | 5-octyloxy-2-(4-hydroxyphenyl)pyrimidine | 10 mmol, 3.0 g | C(CCCCCCC)OC=1C=NC(=NC1)C1=CC=C(C=C1)O | C18H24N2O2
product | 5-Octyloxy-2-[4-(2-(2-(2-(pentafluoroethoxy)tetrafluoroethoxy)-2,2-difluoroethoxy)ethoxy)phenyl]pyrimidine | C(CCCCCCC)OC=1C=NC(=NC1)C1=CC=C(C=C1)OCCOCC(F)(F)OC(C(OC(C(F)(F)F)(F)F)(F)F)(F)F | C26H29F11N2O5
